Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pulmonary nodule
 
Major Surgical or Invasive Procedure:
___
1. Video-assisted thoracoscopy left lower lobe wedge
    resection.
2. Video-assisted thoracoscopy left lower lobectomy.
3. Mediastinal lymph node dissection.

 
History of Present Illness:
Mr. ___ is a ___ man who was referred by ___ 
___, NP, at ___, for evaluation of a 
pulmonary nodule. He has a LLL nodule first noted on CT chest in 
___, which was stable in size at about 1 cm through ___. A CT 
chest without contrast performed one week ago, on ___ 
noted an increase in size to 17.6 by 15.8 by 16.2 mm. As a 
result, he was referred here for further evaluation.

He reports some mild generalized fatigue, but is able to play 18 
holes of golf without a cart.  He also notes 15 pounds of 
unintentional weight loss (with good appetite) in the past two 
months.  Mild nonproductive cough and intermitant mild hoarse 
voice over past year.
 
Past Medical History:
CAD - s/p stents x4, most recently ___ yrs ago, no recent anginal
symptoms
Prostate CA - s/p radical prostetectomy at age ___
Inguinal hernia - s/p repair ___ at ___
Pulmonary nodules
Aortic stenosis
Middle cerebral artery stenosis  
Anemia  
HTN
AV Block (Mobitz II) 
HLD 
Impaired glucose tolerance
EtOH dependence (not currently drinking)  
Osteoarthritis (L hand/wrist)
Trigger finger
Cervical disc disease  
Lumbar disc disease    
Depressive disorder  
Glaucoma (angle recession)  
Peripheral neuropathy  
Hoarseness 
 
Social History:
___
Family History:
Father - CAD
 
Physical ___:
BP: 136/75. Heart Rate: 69. Weight: 152.9. Height: 72.25. BMI:
20.6. Temperature: 98.6. Resp. Rate: 16. Pain Score: 0. O2
Saturation%: 98.

GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA b/l
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [ ] No m/r/g   [x] No edema
[x] Abnormal findings: Loud systolic murmur over RUSB

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
[x] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[x] Cranial nerves intact   [ ] Abnormal findings:

MS     
[x] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[x] No tenderness  [x] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[x] Inguinal nl   [ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
Discharge Labs
___ 05:50AM BLOOD WBC-5.7 RBC-3.51* Hgb-10.5* Hct-31.6* 
MCV-90 MCH-30.0 MCHC-33.4 RDW-13.3 Plt ___
___ 05:50AM BLOOD Glucose-103* UreaN-11 Creat-0.8 Na-134 
K-3.7 Cl-98 HCO___ AnGap-12
___ 05:50AM BLOOD Calcium-8.5 Phos-2.6* Mg-1.9

Imaging
___ CXR :
Small left pneumothorax has developed following removal of the 
basal and 
medial pleural tube.  There is no appreciable left pleural 
effusion, but there is a small region of consolidation in the 
left lower lobe, which could be area of focal bleeding.  Right 
basal atelectasis is new.  Heart size normal. 
  

 
Brief Hospital Course:
Mr. ___ was admitted to the thoracic surgery service for a 
left lower lobe pulmonary nodule.  He was taken to the OR and 
underwent an uncomplicated VATS LLL lobectomy with placement of 
a chest tube.  He tolerated the procedure without complications 
and recovered uneventfully in the PACU before being transferred 
to the floor in stable condition.  (Please see the associated 
operative report for specific procedural details.)  
Post-operatively his pain was controlled with a PCA and IV pain 
medication with a transition to PO pain meds once tolerating 
POs.  His diet was advanced slowly and without difficulty.  His 
chest tube was removed on POD#2 without incident and his oxygen 
saturations were > 95% on room air. He was able to use his 
incentive spirometer effectively.

Unfortunately he failed one voiding trial which required 
replacement of his Foley catheter for an additional day.  His 
second voiding trial was successful and Flomax was also started. 
 He had some confusion with the use of Dilaudid but improved 
with Ultram and Tylenol. 

Upon standing up for a chest xray he had some dizziness and 
orthostatic signs were checked.  Lying, his BP was 114/70 with a 
heart rate of 78 and standing it was 80/42 with a heart rate of 
88.  He was initially treated with IV fluids and increasing his 
oral intake of liquids.  Despite doing that his orthostasis 
persisted and an EKG demonstrated atrial fibrillation at a rate 
of 114. This was also associated with hypokalemia, 
hypophosphatemia and hypomagnesemia. After repleting his 
electrolytes and starting metoprolol, he converted back into 
sinus rhythm.

Of note, he had been on Lopressor as recent as ___ but 
after discussing the situation with his wife, she monitored him 
closely and noticed that his heart rate was in the 50's 
therefore stopped the lopressor.  There is no prior record of 
atrial fibrillation noted in his record.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE BID 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT EYE BID 
3. Atorvastatin 80 mg PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE HS 
5. Pantoprazole 40 mg PO Q24H 
6. Aspirin 325 mg PO DAILY 
7. Citalopram 20 mg PO DAILY 
8. Cyanocobalamin 1000 mcg IM/SC MONTHLY 

 
Discharge Medications:
1. Pantoprazole 40 mg PO Q24H 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0
3. Atorvastatin 80 mg PO DAILY 
4. Aspirin 325 mg PO DAILY 
5. Citalopram 20 mg PO DAILY 
6. brimonidine *NF* 0.2 % OS bid 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE HS 
8. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP LEFT EYE BID 
9. Senna 1 TAB PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0
10. Acetaminophen 650 mg PO Q6H 
11. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
12. TraMADOL (Ultram) 50 mg PO QID 
RX *tramadol 50 mg 1 tablet(s) by mouth four times a day Disp 
#*60 Tablet Refills:*1
13. Metoprolol Tartrate 50 mg PO BID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left lower lobe pulmonary nodule
Urinary retention
Orthostatic hypotension
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol  ___ mg every 6 hours in between your narcotic.  
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you 
experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.
 
 
 
 
Followup Instructions:
___